** sch_path: /foss/designs/Mosbious_2025_Spikcore/designs/libs/switch_matrix_gf180mcu_9t5v0/En_clk_din/En_clk_din.sch
.subckt En_clk_din VDD VSS clk clock enable D_in Data_in
*.PININFO D_in:I enable:I clk:B VDD:B VSS:B clock:O Data_in:O
x6 net1 D_in Data_in VDD VDD VSS VSS gf180mcu_fd_sc_mcu9t5v0__and2_1
x15 enable net1 VDD VDD VSS VSS gf180mcu_fd_sc_mcu9t5v0__inv_1
x2 net2 clk clock VDD VDD VSS VSS gf180mcu_fd_sc_mcu9t5v0__and2_1
x3 enable net2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu9t5v0__inv_1
* noconn VSS
* noconn VDD
.ends
